US04812164
using 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone and allyl bromide with sodium carbonate in acetone there is obtained 1-(5-allyloxy-4-chloro-2-fluorophenyl)-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone, m.p. 82°-83° C.;

reactant | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1O)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)OC)F | C13H7ClF6N2O3
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-(5-allyloxy-4-chloro-2-fluorophenyl)-2-methoxy-4-pentafluoroethyl-6(1H)-pyrimidinone | C(C=C)OC=1C(=CC(=C(C1)N1C(=NC(=CC1=O)C(C(F)(F)F)(F)F)OC)F)Cl | C16H11ClF6N2O3
